US08440666B2
4-Hydroxy-2-(tetrahydro-2H-pyran-2-yl)-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one
4-Bromo-2-(tetrahydro-2H-pyran-2-yl)-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one (200 mg, 0.49 mmol), tris(dibenzylideneacetone)dipalladium (9 mg, 0.01 mmol), potassium hydroxide (82 mg, 1.46 mmol) and 2-di-t-butylphosphino-2′,4′,6′-triisopropylbiphenyl (17 mg, 0.04 mmol) in 1,4-dioxane-water (1/1) were stirred in an argon stream at 100° C. for 1 hour. After completion of the reaction, the reaction solution was mixed with saturated aqueous ammonium chloride and extracted with chloroform three times, and the organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 1/1) to give the desired product (170 mg, 100% yield).

reactant | 4-Bromo-2-(tetrahydro-2H-pyran-2-yl)-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one | 0.49 mmol, 200 mg | BrC=1C(N(N=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)C2OCCCC2)=O | C19H28BrN3O2
reactant | potassium hydroxide | 1.46 mmol, 82 mg | [OH-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,4-dioxane water | O1CCOCC1.O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.01 mmol, 9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-di-t-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.04 mmol, 17 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
product | 4-Hydroxy-2-(tetrahydro-2H-pyran-2-yl)-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one | 170 mg, 100% yield | OC=1C(N(N=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)C2OCCCC2)=O | C19H29N3O3
